US08242125B2
108-B. 5-(2-Aminomethyl-pyridin-4-yloxy)-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide
5-(2-Azidomethyl-pyridin-4-yloxy)-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide (165 mg, 0.36 mmol) is dissolved in THF (5 mL) at 0° C. and lithium aluminum hydride (0.55 mL, 0.55 mmol, 1.0M THF solution) is added. After 2 h, the mixture is quenched with water before extraction with EtOAc. The organic layer is washed with saturated aqueous NH4Cl and then dried over anhydrous Na2SO4. Following concentration the residue is separated via semi-prep HPLC (C18; 10-100% I/H2O with 0.1% NH4OH) to give the title compound. MS (ESI) m/z 427.1 (M+1); 1H NMR (400 MHz, DMSO-d6) δ ppm 8.29-8.39 (m, 2H), 8.15 (d, J=3.8 Hz, 1H), 8.09 (s, 1H), 7.97 (d, J=8.1 Hz, 1H), 7.64 (t, J=8.0 Hz, 1H), 7.50 (d, J=7.6 Hz, 1H), 7.45 (d, J=2.5 Hz, 1H), 7.12 (dd, J=8.8, 2.5 Hz, 1H), 7.00 (s, 1H), 6.81 (d, J=3.3 Hz, 1H), 6.76 (d, J=3.5 Hz, 1H), 3.76 (s, 2H).

reactant | 5-(2-Azidomethyl-pyridin-4-yloxy)-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 0.36 mmol, 165 mg | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)CN=[N+]=[N-])(F)F | C22H15F3N6O2
reactant | lithium aluminum hydride | 0.55 mmol, 1.0M, 0.55 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-(2-Aminomethyl-pyridin-4-yloxy)-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)CN)(F)F | C22H17F3N4O2
